US03993656
Preparation of 2-amino-5-acetamido-4,6-dimethylnicotinic acid hydrazide
A mixture of ethyl 2-amino-5-acetamido-4,6-dimethylnicotinate (45.3 g., 0.18 mole) and hydrazine hydrate (100 ml.) is heated in an oil bath with stirring at 120° C. for two hours. The mixture is cooled, the solid collected, and a second crop of solid obtained by evaporating the mother liquor to about half its initial volume. The combined solids melt at 293° C. (dec.), yield 38.1 g. (89%). Analytically pure compound is obtained by dissolving the solid in about six and one-half parts (volume by weight) of hot water and diluting the filtered solution with methanol. The purified product decomposed at about 309° C. with only partial melting.

reactant | ethyl 2-amino-5-acetamido-4,6-dimethylnicotinate | 0.18 mole, 45.3 g | NC1=C(C(=O)OCC)C(=C(C(=N1)C)NC(C)=O)C | C12H17N3O3
reactant | hydrazine hydrate | 100 ml | O.NN
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-amino-5-acetamido-4,6-dimethylnicotinic acid hydrazide | NC1=C(C(=O)NN)C(=C(C(=N1)C)NC(C)=O)C | C10H15N5O2
